US07132425B2
A suspension of 5-[2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazine-2-carboxylic acid methyl ester (200 mg, 0.43 mmol) in methanol (2 mL) was cooled to 0° C. and then was treated with sodium borohydride (49.2 mg, 1.29 mmol). The reaction mixture was stirred at 0° C. for 5 min and then at 25° C. for 1.5 h. The reaction was cooled to 0° C. and then quenched with water. The reaction mixture was then diluted with ethyl acetate (75 mL), washed with a 1N aqueous hydrochloric acid solution (3×75 mL) and a saturated aqueous sodium chloride solution (75 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 3/2 ethyl acetate/hexanes) afforded 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-(5-hydroxymethyl-pyrazin-2-yl)-propionamide (110.4 mg, 59%) as a white foam: mp 78–81° C. (foam to gel); (ES)+-HRMS m/e calcd for C20H24ClN3O4S (M+H)+ 438.1249, found 438.1252.

reactant | 5-[2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazine-2-carboxylic acid methyl ester | 0.43 mmol, 200 mg | COC(=O)C1=NC=C(N=C1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C21H24ClN3O5S
reactant | sodium borohydride | 1.29 mmol, 49.2 mg | [BH4-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-(5-hydroxymethyl-pyrazin-2-yl)-propionamide | 110.4 mg, 59% | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NC=C(N=C1)CO)CC1CCCC1 | C20H24ClN3O4S
